US07354924B2
An excess of NH4Cl (27 mg) was added into a solution of 1-(benzoyl)-3-(R)-methyl-4-[(6-cyano-7-azaindol-3-yl)-oxoacetyl]piperazine (20 mg) and NaN3 (16 mg) in DMF. The reaction was heated to reflux for 12 h. After cooling down, the mixture was concentrated under reduced pressure and the residue was purified using Shimadzu automated preparative HPLC System to give 1-benzoyl-3-(R)-methyl-4-[(6-(tetrazol-1-yl)-7-azaindol-3-yl)-oxoacetyl]piperazine (6.3 mg). MS m/z: (M+H)+Calc'd for C22H21N8O3: 445.17; Found 3445.16. HPLC retention time: 1.42 minutes (column B); Column B: PHX-LUNA C18 4.6×30 mm.

reactant | NH4Cl | 27 mg | [NH4+].[Cl-]
reactant | 1-(benzoyl)-3-(R)-methyl-4-[(6-cyano-7-azaindol-3-yl)-oxoacetyl]piperazine | 20 mg | C(C1=CC=CC=C1)(=O)N1C[C@H](N(CC1)C(C(=O)C1=CNC2=NC(=CC=C12)C#N)=O)C | C22H19N5O3
reactant | NaN3 | 16 mg | [N-]=[N+]=[N-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
product | 1-benzoyl-3-(R)-methyl-4-[(6-(tetrazol-1-yl)-7-azaindol-3-yl)-oxoacetyl]piperazine | 6.3 mg | C(C1=CC=CC=C1)(=O)N1C[C@H](N(CC1)C(C(=O)C1=CNC2=NC(=CC=C12)N1N=NN=C1)=O)C | C22H20N8O3
